US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-[4-(hydroxymethyl)phenyl]-4-pyrimidineamine and 3,4-ethylenedioxyaniline were reacted to yield N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[4-(hydroxymethyl)phenyl]-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.92 (bs, 1H), 7.62 (d, 2H, J=8.7 Hz), 7.36 (d, 2H, J=8.7 Hz), 7.19 (d, 1H, J=2.1), 6.87 (dd, 1H, J=2.7 and 8.7 Hz), 6.79 (d, 1H, J=8.7 Hz), 4.68 (s, 2H), 4.284.23 (m, 4H); 19F NMR (CDCl3): −4.7466; LCMS: ret. time: 17.86 min.; purity: 93%; MS (m/e): 369 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-[4-(hydroxymethyl)phenyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)CO)F | C11H9ClFN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[4-(hydroxymethyl)phenyl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)N(C1=NC=C(C(=N1)N)F)C1=CC=C(C=C1)CO | C19H17FN4O3
